US08071584B2
2,2-Dimethyl-tetrahydro-thiopyran-4-one
The mixture of 6,6-Dimethyl-4-oxo-tetrahydro-thiopyran-3-carboxylic acid methyl ester and 2,2-Dimethyl-4-oxo-tetrahydro-thiopyran-3-carboxylic acid methyl ester (42 g) in 10% aq. H2SO4 solution (1000 mL) was heated at reflux for 70 h. Then the mixture was extracted with Et2O (3×300 mL), the combined organic layer was washed with sat. NaHCO3 (120 mL) and brine (120 mL), dried over Na2SO4 and evaporated under vacuum to give the title compound as a white solid (5.3 g, 17.7%, two steps).

reactant | 6,6-Dimethyl-4-oxo-tetrahydro-thiopyran-3-carboxylic acid methyl ester | COC(=O)C1CSC(CC1=O)(C)C | C9H14O3S
reactant | 2,2-Dimethyl-4-oxo-tetrahydro-thiopyran-3-carboxylic acid methyl ester | 42 g | COC(=O)C1C(SCCC1=O)(C)C | C9H14O3S
solvent | H2SO4 | 1000 mL | OS(=O)(=O)O | H2O4S
product | 2,2-Dimethyl-tetrahydro-thiopyran-4-one | 5.3 g, 17.7% | CC1(SCCC(C1)=O)C | C7H12OS
